US08754114B2
Step 3: 3-[3-(3-{[(methylamino)carbonyl]amino}phenyl)imidazo[1,2-b]pyridazin-7-yl]benzoic acid
Lithium hydroxide, monohydrate (89 mg, 2.1 mmol) was added to a mixture of methyl 3-[3-(3-{[(methylamino)carbonyl]amino}phenyl)imidazo[1,2-b]pyridazin-7-yl]benzoate (0.17 g, 0.43 mmol) in methanol (4.0 mL)/THF (2.0 mL)/water (1 mL) and then the reaction was stirred at r.t. for 4 h. The mixture was adjusted with conc. HCl to PH˜3. The volatiles were removed under reduced pressure to provide the crude product which was directly used in the next step without further purification. LCMS (M+H)+: m/z=388.1

reactant | Lithium hydroxide, monohydrate | 2.1 mmol, 89 mg | O.[OH-].[Li+]
reactant | methyl 3-[3-(3-{[(methylamino)carbonyl]amino}phenyl)imidazo[1,2-b]pyridazin-7-yl]benzoate | 0.43 mmol, 0.17 g | CNC(=O)NC=1C=C(C=CC1)C1=CN=C2N1N=CC(=C2)C=2C=C(C(=O)OC)C=CC2 | C22H19N5O3
reactant | THF | 2.0 mL | C1CCOC1 | C4H8O
reactant | HCl | Cl | ClH
solvent | methanol | 4.0 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
product | 3-[3-(3-{[(methylamino)carbonyl]amino}phenyl)imidazo[1,2-b]pyridazin-7-yl]benzoic acid | CNC(=O)NC=1C=C(C=CC1)C1=CN=C2N1N=CC(=C2)C=2C=C(C(=O)O)C=CC2 | C21H17N5O3
